US05589478
A mixture of 6-chloro-5-(4-methylphenyl)pyrimidin-4-amine (500 mg), ethylene glycol(10 ml) and sodium hydride (60% dispersion-type, 0.46 g) is reacted at 70° C. for two hours, and reacted at 90° C. for five hours. The mixture is treated with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is crystallized from hexane/ethyl acetate to give 2-{6-amino-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol (422 mg).

reactant | 6-chloro-5-(4-methylphenyl)pyrimidin-4-amine | 500 mg | ClC1=C(C(=NC=N1)N)C1=CC=C(C=C1)C | C11H10ClN3
reactant | sodium hydride | 0.46 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 2-{6-amino-5-(4-methylphenyl)pyrimidin-4-yloxy}ethanol | 422 mg | NC1=C(C(=NC=N1)OCCO)C1=CC=C(C=C1)C | C13H15N3O2
